US04241071
To a solution of 45 ml of 1 M-borane in THF is added under dry nitrogen at 0° C., 6.36 g 1-cyclopropylcarbonyl-3-hydroxy-3-(α-phenyl-2-tolyl)pyrrolidine in 20 ml of dry THF. The solution is then brought to reflux and maintained there for 1 hour. The solution is permitted to cool to room temperature and 3.3 ml of 6 N-HCl is added slowly. The THF is removed by distillation at atmospheric pressure and the residue is crystallized with 50 ml of anhydrous ether and recrystallized from methanol/ether (30 ml/80 ml) to give colorless crystals. The mother liquid is made acid with a slight excess of HCl/ether and a second crop is obtained by suction filtration. The mother liquid is concentrated in vacuo to an oil and a third crop is obtained by crystallization with ether. Recrystallization from methanol/ether (20 ml/50 ml) yields 1-cyclopropylmethyl-3-hydroxy-3-(α-phenyl-2-tolyl)pyrrolidine hydrochloride, mp 168°-169° C.

reactant | borane | B | BH3
reactant | 1-cyclopropylcarbonyl-3-hydroxy-3-(α-phenyl-2-tolyl)pyrrolidine | 6.36 g | C1(CC1)C(=O)N1CC(CC1)(C1=C(C=CC=C1)CC1=CC=CC=C1)O | C21H23NO2
reactant | HCl | Cl | ClH
reactant | HCl ether | Cl.CCOCC
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1-cyclopropylmethyl-3-hydroxy-3-(α-phenyl-2-tolyl)pyrrolidine hydrochloride | Cl.C1(CC1)CN1CC(CC1)(C1=C(C=CC=C1)CC1=CC=CC=C1)O | InChI=1S/C21H25NO.ClH/c23-21(12-13-22(16-21)15-18-10-11-18)20-9-5-4-8-19(20)14-17-6-2-1-3-7-17;/h1-9,18,23H,10-16H2;1H
